US04639441
p-Nitrobenzyl 2-[3-(1-t-butyldimethylsilyloxyethyl)-4-chloro-2-azetidinon-1-yl]-2-(4-oxo-1,3-dithiolan-2-ylidene)acetate
A solution of an equimolar amount of chlorine in carbon tetrachloride was added to a solution of p-nitrobenzyl 2-[3-(1-t-butyldimethylsilyloxyethyl)-4-methylthio-2-azetidinon-1-yl]-2-(4-oxo-1,3-dithiolan-2-ylidene)acetate (134 mg) in methylene chloride (3 ml), with ice cooling. The solution was stirred at that temperature for 30 minutes and then solvent was distilled off to afford the desired product quantitatively.

reactant | chlorine | ClCl | Cl2
reactant | p-nitrobenzyl 2-[3-(1-t-butyldimethylsilyloxyethyl)-4-methylthio-2-azetidinon-1-yl]-2-(4-oxo-1,3-dithiolan-2-ylidene)acetate | 134 mg | [Si](C)(C)(C(C)(C)C)OC(C)C1C(N(C1SC)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C1SCC(S1)=O)=O | C24H32N2O7S3Si
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | p-Nitrobenzyl 2-[3-(1-t-butyldimethylsilyloxyethyl)-4-chloro-2-azetidinon-1-yl]-2-(4-oxo-1,3-dithiolan-2-ylidene)acetate | [Si](C)(C)(C(C)(C)C)OC(C)C1C(N(C1Cl)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C1SCC(S1)=O)=O | C23H29ClN2O7S2Si
